US04089860
Preparation of 1-methyl[benzyl]-3-benzyl[methyl]-5-(methoxy-carbonyl-methylene)-hydantoin:
82 of N-methyl-N'-benzyl urea were dissolved in 230 g of cresol and 72 g of dimethylmaleate were added. After the reaction had continued for 11/2 hours at 200° C, during which 13 g of methanol were liberated, the cresol had to be distilled off. After fractional distillation, a viscous liquid with a boiling point of 193° C/0.25 Torr was obtained as the main fraction. According to gas chromatographic analysis, it consisted of an isomeric mixture of about 80% of 1-methyl-3-benzyl-hydantoin and about 20% of 1-benzyl-3-methyl-hydantoin.

reactant | N-methyl-N'-benzyl urea | CNC(=O)NCC1=CC=CC=C1 | C9H12N2O
reactant | dimethylmaleate | 72 g | C/C(=C(/C(=O)[O-])\C)/C(=O)[O-]
reactant | 1-methyl-3-benzyl-hydantoin | CN1C(=O)N(C(=O)C1)CC1=CC=CC=C1 | C11H12N2O2
reactant | 1-benzyl-3-methyl-hydantoin | C(C1=CC=CC=C1)N1C(=O)N(C(=O)C1)C | C11H12N2O2
solvent | cresol | 230 g | C1(=CC=CC=C1O)C | C7H8O
solvent | methanol | 13 g | CO | CH4O
product | 1-methyl[benzyl]-3-benzyl[methyl]-5-(methoxy-carbonyl-methylene)-hydantoin | CN1C(=O)N(C(=O)C1=C(C(=O)OC)C)C(C1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N2O4
